US05021574
2-Methylhypoxanthine
A solid mix of 4-amino-5-imidazolecarboxamide hydrochloride (30.75 mmol, 5 g) and acetamidine hydrochloride (2 eq, 61.5 mmol, 5.8 g) and sodium acetate (3 eq, 92.25 mmol, 7.6 g) were heated at 190° C. for 1 h. To the resultant off-white solid, at RT, NaOH (100 ml) was added and a white ppt was filtered away. The filtrate was acidified to pH 6.0 with AcOH (5 ml) and the resultant ppt filtered away. Both precipitates were dried separately in a vacuum oven at 0° C. for 24 h. The combined weight of pure product was (4.16 g, 90%). The first precipitate (2.11 g) analyzed as follows: mp.>300° C. DCI/MS (M+1)=151. (300 MHz) 1H-nmr (DMSO-d6) δ: 8.0 (s, 1H), 2.3 (s, 3H).

reactant | 4-amino-5-imidazolecarboxamide hydrochloride | 30.75 mmol, 5 g | Cl.NC=1N=CNC1C(=O)N
reactant | acetamidine hydrochloride | 61.5 mmol, 5.8 g, 2 eq | Cl.C(C)(=N)N
reactant | sodium acetate | 92.25 mmol, 7.6 g, 3 eq | C(C)(=O)[O-].[Na+]
solvent | NaOH | 100 ml | [OH-].[Na+]
product | 2-Methylhypoxanthine | CC=1NC(C=2NC=NC2N1)=O | C6H6N4O
